US06608071B2
1a) 2-Cyanomethyl-benzoic Acid Methyl Ester
With gentle heating, 175 g (1.08 mol) of 2-cyanomethyl-benzoic acid (for preparation see: Org. Synthesis, Coll, Vol. 3,174) are dissolved in 1.7 liters of CH2Cl2; 242 ml (=90%, 1.6 mol) of dimethylformamide dimethylacetal are added dropwise at room temperature, and stirring is carried out for 38 hours to complete the reaction. The reaction mixture is washed with 2×1.2 liters of saturated NaHCO3 solution and brine. The aqueous phases are extracted using 2 portions of CH2Cl2, and the organic phases are dried (Na2SO4) and concentrated by evaporation. Column chromatography (SiO2; ethyl acetate/hexane 1:4, applied in ethyl acetate/hexane/CH2Cl2) yields the title compound: m.p. 49-50° C.; 1H NMR (DMSO-d6) 7.96 (d, 1H), 7.66 (t, 1H), 7.57 (d, 1H), 7.51 (t, 1H), 4.26 (s, 2H), 3.86 (s, 3H); Anal. calc. (C10H9NO2) C 68.56%, H 5.18%, N 8.00%; found C 68.5%, H 5.1%, N 7.9%.

reactant | 2-cyanomethyl-benzoic acid | 1.08 mol, 175 g | C(#N)CC1=C(C(=O)O)C=CC=C1 | C9H7NO2
reactant | dimethylformamide dimethylacetal | 1.6 mol, 242 ml | COC(N(C)C)OC | C5H13NO2
solvent | CH2Cl2 | 1.7 liters | C(Cl)Cl | CH2Cl2
product | 2-Cyanomethyl-benzoic Acid Methyl Ester | COC(C1=C(C=CC=C1)CC#N)=O | C10H9NO2
